### ISSUE TITLE
Regression with new do elaborator

### ISSUE THREAD

**Issue by oliver-butterley** [AeneasVerif/aeneas#1022]
Updating to the latest version of Aeneas some of our complete proofs now fail because `step*` doesn't manage to step through all the let. We have a hack using simp_all with step* for this particular issue (as below). @mpenciak is already aware of something like this, adding here the precise detail.

Here's a mwe of the problem:

```lean
def mwe (v : Std.Array U64 2#usize) : Result (Std.Array U64 2#usize) := do
  let (_x, setter) ← Std.Array.index_mut_usize v 0#usize
  let y ← Std.Array.index_usize v 1#usize
  ok (setter y)

theorem mwe_spec_broken (v : Std.Array U64 2#usize) :
    mwe v ⦃ (result : Std.Array U64 2#usize) =>
      result = Std.Array.set v 0#usize v.val[1]! ⦄ := by
  unfold mwe
  step*
  -- At this point the goal is still a `do` block:
  -- ⊢ (do
  --   let y ← v.index_usize 1#usize
  --   ok (x✝ y)) ⦃
  -- res => res = v.set 0#usize (↑v)[1]! ⦄
  sorry

theorem mwe_spec_hack (v : Std.Array U64 2#usize) :
    mwe v ⦃ (result : Std.Array U64 2#usize) =>
      result = Std.Array.set v 0#usize v.val[1]! ⦄ := by
  unfold mwe
  repeat (step*; simp_all only)
```

**Comment by sonmarcho** [comment]
Does this PR solve the issue? https://github.com/AeneasVerif/aeneas/pull/963

**Comment by mpenciak** [comment]
Yeah I can confirm, on #963 `mwe_spec_broken` is solved with a `unfold mwe; step*; simp_all`

**Comment by sonmarcho** [comment]
Closing because I merged the PR
